US06548493B1
tert-butyl (±)-cis-2-(2,4-dimethoxyphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate
The title compound was prepared by the method of Example 90 from tert-butyl (±)-cis-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate (143 mg, 0.32 mmol) and corresponding 2,4-dimethoxyphenylboronic acid (115 mg, 0.63 mmol), to afford after chromatographic purification the title compound (92 mg, 66%) as a white amorphous solid. 1H NMR (CDCl3, 300 MHz) δ7.15-7.18 (m, 1H), 7.08 (s, 1H), 7.04 (s, 1H), 6.40-6.60 (m, 2H), 3.75-4.00 (m, 7H), 3.60-3.70 (m, 1H), 3.00-3.50 (m, 7H), 2.70-2.90 (m, 1H), 1.70-1.90 (m, 2H), 1.48 (s, 9H) ppm. MS (CI, NH3): 437 (base, M+H).

reactant | tert-butyl (±)-cis-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | 0.32 mmol, 143 mg | BrC=1C=C2[C@@H]3[C@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2
reactant | 2,4-dimethoxyphenylboronic acid | 0.63 mmol, 115 mg | COC1=C(C=CC(=C1)OC)B(O)O | C8H11BO4
product | tert-butyl (±)-cis-2-(2,4-dimethoxyphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | COC1=C(C=CC(=C1)OC)C=1C=C2[C@@H]3[C@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C26H32N2O4
